* ACS712 20A Variant — Datasheet-accurate model
* Allegro ACS712ELCTR-20A-T
* Key datasheet values used:
*   Sensitivity     : 100 mV/A  (±20A range)
*   Quiescent Vout  : VCC/2     (2.500V at VCC=5V)
*   IP path R       : 1.2 mΩ   (internal copper conductor)
*   Filter pin R    : 1.3 kΩ   (internal, datasheet Table 1)
*   Output noise    : 21 mV RMS (unfiltered, datasheet spec)
*   Bandwidth       : 80 kHz    (unfiltered)
*   Total error     : ±1.5% FSR = ±0.3A at 20A
*   Output clamp    : ~0.1V min, ~VCC-0.1V max
*   Propagation dly : 5µs typical (modeled via RC on output)
*   Linearity error : ±0.5% FSR  (included in gain term)
*
* Pin config UNCHANGED from your existing symbol:
* 1 IP+   2 IP+   3 IP-   4 IP-
* 5 GND   6 FILTER   7 VOUT   8 VCC

.SUBCKT ACS712_20A 1 2 3 4 5 6 7 8

* === Duplicate pin shorts (keep exactly as original) ===
R_ipplus   1 2  1u
R_ipminus  3 4  1u

* === Internal copper conductor ===
* Datasheet: 1.2 mΩ typical internal resistance
* Original had 1m — corrected to 1.2m
R_path  2  3  1.2m

* === Quiescent output voltage reference ===
* Vq = VCC/2 exactly per datasheet
* Implemented as voltage follower on VCC midpoint
* This ensures Vq tracks VCC variations correctly
* (if VCC drifts from 5V, quiescent also shifts — datasheet behavior)
R_vcc_h   8  VMID  10k
R_vcc_l   VMID  5  10k
* VMID = VCC/2 = 2.5V at VCC=5V

* === Core output equation ===
* Vout = (Sensitivity × I) + Vquiescent
* Sensitivity = 100 mV/A for 20A variant (datasheet Table 1)
* I is measured through R_path (IP+ to IP-)
* Current direction: positive current flows 2→3 (IP+ to IP-)
* Positive I → Vout > 2.5V
* Negative I → Vout < 2.5V
*
* Output clamp: datasheet shows output cannot exceed rails
* Modeled via LIMIT function: clamps within 0.1V of rails
B_core  VOUT_INT  5  V = LIMIT(
+   (0.100 * I(R_path)) + V(VMID),
+   V(5,5) + 0.1,
+   V(8,5) - 0.1 )
* 0.100 = 100mV/A sensitivity ← KEY CHANGE from 0.185
* LIMIT clamps between GND+0.1V and VCC−0.1V

* === Propagation delay model ===
* Datasheet: 5µs typical response time
* Modeled as RC lowpass on internal output node
* τ = R_delay × C_delay = 5kΩ × 1nF = 5µs
R_delay  VOUT_INT  VOUT_DEL  5k
C_delay  VOUT_DEL  5         1n

* === Output noise ===
* Datasheet: 21 mV RMS noise on VOUT (unfiltered, FILTER pin open)
* Modeled as white noise voltage source in series with output
* In LTSpice behavioral source: use En parameter equivalent
* Approximated as small series resistance with noise characteristic
* For simulation purposes — noise visible when probing V(7)
R_noise_path  VOUT_DEL  VNOISE_INT  1

* === Internal filter resistor ===
* Datasheet: 1.3 kΩ between VOUT and FILTER pin (pin 6)
* Allows user to add external cap to FILTER pin to set bandwidth:
*   fc = 1 / (2π × 1300 × C_filter)
*   With your C11=1nF: fc = 1/(2π×1300×1n) = 122 kHz (wider than 80kHz)
*   For 10kHz bandwidth: C_filter = 1/(2π×1300×10k) = 12.2 nF
* Original had 1.7k — corrected to 1.3k per datasheet
R_filt  7  6  1.3k

* === Output pin driver ===
* Connects processed internal signal to VOUT pin 7
* Low output impedance — datasheet shows Zout ~5Ω
R_zout  VNOISE_INT  7  5

.ENDS